US05075319
A suspension of 1.0 g ethyl 1-cyclopropyl-6,8-difluoro-7-(2,6-dimethyl-4-pyridinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate in 20 ml 1M hydrochloric acid was heated at reflux for 2 hours. The reaction mixture was cooled, poured into saturated sodium acetate and extracted with ethyl acetate. The extract was dried (sodium sulfate) and concentrated, and the residue (0.84 g) was recrystallized from absolute ethanol to give 0.70 g 1-cyclopropyl-6,8-difluoro-7-(2,6-dimethyl-4-pyridinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, colorless needles, m.p. 246°-248.5° C.

reactant | ethyl 1-cyclopropyl-6,8-difluoro-7-(2,6-dimethyl-4-pyridinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 1.0 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)C1=CC(=NC(=C1)C)C)F)=O)C(=O)OCC | C22H20F2N2O3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | hydrochloric acid | 1M, 20 ml | Cl | ClH
product | 1-cyclopropyl-6,8-difluoro-7-(2,6-dimethyl-4-pyridinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.70 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)C1=CC(=NC(=C1)C)C)F)=O)C(=O)O | C20H16F2N2O3
